US05036107
1-Cyclohexyl-1-hydroxyl-1-phenylhex-5-yn-2-one
1-(Trimethylsilyloxy)-1-cyclohexyl-1-phenylhex-5-yn-2-one is dissolved in methanol containing 1% concentrated hydrochloric acid at 25° C. Water is added and the solution transferred to a separatory funnel. The solution is washed with ether and the ether layer dried over sodium sulfate. Upon evaporation of the ether under vacuum and vacuum distillation of the crude product a pale yellow oil is isolated.

reactant | 1-(Trimethylsilyloxy)-1-cyclohexyl-1-phenylhex-5-yn-2-one | C[Si](OC(C(CCC#C)=O)(C1=CC=CC=C1)C1CCCCC1)(C)C | C21H30O2Si
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
product | 1-Cyclohexyl-1-hydroxyl-1-phenylhex-5-yn-2-one | C1(CCCCC1)C(C(CCC#C)=O)(C1=CC=CC=C1)O | C18H22O2
